US05032606
A solution of 3.45 ml of methyl chlorooxalate in 10 ml of methylene chloride is added dropwise to a solution of 9.2 g of 3-{3[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-aniline and 4.3 ml of triethanolpropy amine in 90 ml of methylene chloride in the course of 10 minutes. After stirring at room temperature for 5 hours, the mixture is poured onto water and extracted with methylene chloride. Evaporation of the extracts and recrystallisation of the residue from ether gives methyl N-{{3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-phenyl}}-oxamate.

reactant | methyl chlorooxalate | 3.45 ml | C(C(=O)OC)(=O)Cl | C3H3ClO3
reactant | 3-{3[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-aniline | 9.2 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C=CC2)C=C1)CCC(F)(F)F)OC | C21H24F3NO4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | methyl N-{{3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-phenyl}}-oxamate | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C=CC2)NC(C(=O)OC)=O)C=C1)CCC(F)(F)F)OC | C24H26F3NO7
